US08669234B2
[1-(4-Cyano-2-{5-[4-(4-{2-[5-(2-methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-3H-imidazol-4-yl}-phenylethynyl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester
Title compound was prepared according to the method employed to prepare [1-(2-{5-[4-(4-{2-[4,4-Difluoro-1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenylethynyl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (Example AB1), substituting (1-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-4-cyano-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester for (1-{2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester (400 mg, 0.89 mmol), and (1-{6-[5-(4-Ethynyl-phenyl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester for (1-{2-[5-(4-Ethynyl-phenyl)-1H-imidazol-2-yl]-4,4-difluoro-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester. 1H NMR (MeOH-d4, 400 MHz) δ: 7.78-7.66 (m, 4H), 7.52-7.37 (m, 4H), 5.29 (m, 1H), 5.17 (m, 1H), 4.59 (m, 1H), 4.17-4.09 (m, 3H), 4.01 (m, 1H), 3.93-3.80 (m, 2H), 3.65 (s, 6H), 3.50-3A2 (m, 2H), 2.88-2.81 (m, 1H), 2.66-2.52 (m, 2H), 2.36-2.31 (m, 1H), 2.18-2.13 (m, 1H), 2.05-1.94 (m, 3H), 1.01-0.87 (m, 12H), 0.82-0.63 (m, 4H); MS (ESI) m/z 814 [M+H]+.

reactant | [1-(2-{5-[4-(4-{2-[4,4-Difluoro-1-(2-methoxycarbonylamino-3-methyl-butyryl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenylethynyl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C=1NC(=NC1)C1N(CC(C1)(F)F)C(C(C(C)C)NC(=O)OC)=O)=O | C42H48F2N8O6
reactant | (1-{2-[5-(4-bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | 0.89 mmol, 400 mg | COC(NC(C(C)C)C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br)=O | C20H25BrN4O3
reactant | (1-{6-[5-(4-Ethynyl-phenyl)-1H-imidazol-2-yl]-5-aza-spiro[2.4]heptane-5-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1CC2(CC2)CC1C=1NC(=CN1)C1=CC=C(C=C1)C#C)=O | C24H28N4O3
reactant | (1-{2-[5-(4-Ethynyl-phenyl)-1H-imidazol-2-yl]-4,4-difluoro-pyrrolidine-1-carbonyl}-2-methyl-propyl)-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CC(C1)(F)F)C=1NC(=CN1)C1=CC=C(C=C1)C#C)=O | C22H24F2N4O3
product | [1-(4-Cyano-2-{5-[4-(4-{2-[5-(2-methoxycarbonylamino-3-methyl-butyryl)-5-aza-spiro[2.4]hept-6-yl]-3H-imidazol-4-yl}-phenylethynyl)-phenyl]-1H-imidazol-2-yl}-pyrrolidine-1-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | COC(NC(C(C)C)C(=O)N1C(CC(C1)C#N)C=1NC(=CN1)C1=CC=C(C=C1)C#CC1=CC=C(C=C1)C=1NC(=NC1)C1N(CC2(CC2)C1)C(C(C(C)C)NC(=O)OC)=O)=O | C45H51N9O6
